US04918223
N-(4'-bromobenzoyl)-D-penicillamine
36.4 g (0.2 mole) 4-bromobenzonitrile, 29.8 g (0.2 mole) D-penicillamine and 13.8 g (0.1 mole) potassium carbonate were heated in 350 ml methanol and 150 ml water for 6 hours at the boiling point. After the mixture was acidified with concentrated hydrochloric acid to pH 4, it was heated one hour to a boil. After it cooled off, 53.6 g (81% of theory) of the product were isolated as a colorless precipitate with a melting point of 176° C.

reactant | 4-bromobenzonitrile | 0.2 mole, 36.4 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | D-penicillamine | 0.2 mole, 29.8 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | potassium carbonate | 0.1 mole, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 350 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | N-(4'-bromobenzoyl)-D-penicillamine | BrC1=CC=C(C(=O)N[C@H](C(C)(C)S)C(=O)O)C=C1 | C12H14BrNO3S
